US07268230B2
4-[(4-Fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy)quinazoline (60 mg, 0.14 mmol), (prepared as described for the starting material in Example 12), was dissolved in pyridine (3 ml) and cooled to 0° C. Trichloroacetyl isocyanate (17 μl, 0.14 mmol) was added and the mixture stirred for 2 hours. The solvent was removed under reduced pressure and the residue dissolved in 7N ammonia in methanol and stirred at ambient temperature overnight and then at 50° C. for 2 hours. The solvent was removed under reduced pressure. Column chromatography of the residue (2% to 5% methanol/dichloromethane) gave 7-[(2S)-1-carbamoylpyrrolidin-2-ylmethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (40 mg, 69%) as a yellow solid.

reactant | 4-[(4-Fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy)quinazoline | 0.14 mmol, 60 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1NCCC1)C | C23H23FN4O3
reactant | Trichloroacetyl isocyanate | 0.14 mmol, 17 μl | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 7-[(2S)-1-carbamoylpyrrolidin-2-ylmethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 40 mg, 69% | C(N)(=O)N1[C@@H](CCC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C24H24FN5O4
